US07592477B2
Step a) Formation of 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde
To a solution of 4-carboxybenzaldehyde (20.0 g, 133.2 mmol) in anhydrous DCM (500 mL) was added DIC (18.42 g, 146.5 mmol). The mixture was stirred at rt for 30 min then a solution of N-hydroxydodecanimidamide (31.41 g, 146.5 mmol) in anhydrous DCM (500 mL) was added in one portion. The resulting reaction mixture was stirred overnight at rt. The reaction was filtered, the collected solid washed with DCM and the solvent was concentrated in vacuo. The residue was heated at 115° C. for 5 h in a mixture of toluene (285 mL) and pyridine (115 mL). The solvents were evaporated off and the resulting residue was purified on column (SiO2, c-Hex/EtOAc 20/1) to give the title compound as a white solid (24.0 g, 55%). 1H NMR (CDCl3, 300 MHz) δ 10.1 (s, 1H), 8.18 (d, 2H, J=8.3 Hz), 7.94 (d, 2H, J=8.3 Hz), 2.33 (t, 2H, J=7.4 Hz), 1.74-1.58 (m, 2H), 1.43-1.18 (m, 16H), 0.87 (m, 3H). HPLC (Condition A), Rt: 5.83 min (HPLC purity: 99.6%).

reactant | 4-carboxybenzaldehyde | 133.2 mmol, 20.0 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | DIC | 146.5 mmol, 18.42 g | CC(N=C=NC(C)C)C | C7H14N2
reactant | N-hydroxydodecanimidamide | 146.5 mmol, 31.41 g | ONC(CCCCCCCCCCC)=N | C12H26N2O
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | 24.0 g, 55% | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C20H28N2O2
